US06500853B1
1-benzhydryl-3-(2-bromoethyl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indole (1 eq) was mixed with Methyl 4-mercaptobenzoate (2 eq) and KC2CO3 (1.9 eq) in DMF (0.09M). The resulting mixture was stirred at rt under N2 overnight. Water was then added, followed by regular work-up (eg. EtOAc extration, brine wash, etc) and column purification (1:6 EtOAc/Hexane as eluent) to give methyl 4-({2-[1-benzhydryl-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indol-3-yl]ethyl}sulfanyl)benzoate (yellow oil) in 81% yield.

reactant | 1-benzhydryl-3-(2-bromoethyl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indole | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCBr)CO[Si](C)(C)C(C)(C)C | C30H35BrClNOSi
reactant | Methyl 4-mercaptobenzoate | 2 eq | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | Water | O | H2O
solvent | DMF | 0.09M | CN(C)C=O | C3H7NO
product | methyl 4-({2-[1-benzhydryl-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indol-3-yl]ethyl}sulfanyl)benzoate | 81% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCSC1=CC=C(C(=O)OC)C=C1)CO[Si](C)(C)C(C)(C)C | C38H42ClNO3SSi
